Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
pain and redness of right lower leg
 
Major Surgical or Invasive Procedure:
Incision and drainage of RLE abscess (___)

 
History of Present Illness:
___ is a ___ year old Insomnia Cookie delivery man 
with PMHx of asthma and unrestrained MVC 2.5 weeks ago p/w RLE 
pain. He sustained small abrasions to RLE during collision as 
leg hit dashboard. He first noted redness, warmth, swelling 
surrounding wound on RLE sustained during MVC, was d/c'ed on 
cephalexin at that time (prescribed at time of MVC). He then 
developed erythema, edema, warmth and pain of RLE 5 days ago, 
worsening/expanding since.  Reports R knee pain x1 day. Reports 
subjective fevers and chills.
Reports mild neck pain and intermittent headaches. Reports mild 
nausea, no vomiting. No vision changes, no weakness. Reports 
steady gait. 

 
Past Medical History:
asthma
 
Social History:
___
Family History:
Uncles with diabetes. Father family history unknown. 
 
Physical Exam:
ADMISSION EXAM
============================
VITALS:  ___ Temp: 98.8 PO BP: 143/84 L Lying HR: 98 
RR: 18 O2 sat: 96% O2 delivery: Ra 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Scattered end-expiratory wheezes.   
Abdomen: Normoactive bowel sounds. Obese, soft, non-tender, 
non-distended, no organomegaly, no rebound or guarding.  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses b/l, b/l ___ edema. RLE with 
skin change as below. Exquisitely tender to palpation in RLE 
with mild crepitus distal to knee.  
Neuro: A&Ox3. No gross focal deficits. 
Skin: Skin type IV. RLE with pink-red erythema, edema, bullae 
formation without frank discharge, mild crepitus distal to knee. 
Erythema outlined with purple skin marker and dated ___. 
 
DISCHARGE EXAM
============================
Vitals: 24 HR Data (last updated ___ @ 1217) Temp: 98.2 (Tm 
98.4), BP: 142/84 (121-143/71-91), HR: 94 (83-94), RR: 17 
(___), O2 sat: 95% (95-99), O2 delivery: Ra, Wt: 456.8 
lb/207.2 kg  
General: NAD, A&Ox3. Young man laying in hospital bed. 
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, neck 
supple.  
CV: RRR, normal S1/S2, no m/r/g
Lungs: Normal work of breathing, no r/r/w/s 
Abdomen: Normoactive bowel sounds. Obese, soft, non-tender, 
non-distended.     
Ext: Warm, well perfused, 2+ pulses b/l dopplerable , 2+ RLE 
edema. Mild TTP of RLE with no crepitus noted. RLE with pink-red 
erythema and edema without fluctuance, induration or drainage, 
improved from prior exam. Area of erythema has receded away from 
demarcated borders. 
Neuro: A&Ox3. No gross focal deficits. 
 
Pertinent Results:
ADMISSION LABS
============================
___ 03:49PM BLOOD WBC-11.1* RBC-4.44* Hgb-13.3* Hct-40.2 
MCV-91 MCH-30.0 MCHC-33.1 RDW-12.7 RDWSD-42.2 Plt ___
___ 03:49PM BLOOD Neuts-74.0* Lymphs-14.7* Monos-10.2 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-8.24* AbsLymp-1.64 
AbsMono-1.14* AbsEos-0.04 AbsBaso-0.03
___ 03:49PM BLOOD Glucose-100 UreaN-13 Creat-0.8 Na-137 
K-3.9 Cl-97 HCO3-26 AnGap-14
___ 03:49PM BLOOD CRP-166.2*
 
PERTINENT LABS
============================
___ 05:46AM BLOOD WBC-6.4 RBC-4.09* Hgb-12.2* Hct-37.2* 
MCV-91 MCH-29.8 MCHC-32.8 RDW-12.8 RDWSD-42.1 Plt ___
___ 05:53AM BLOOD ALT-54* AST-31 AlkPhos-52 TotBili-0.2
___ 07:08AM BLOOD %HbA1c-5.7 eAG-117
___ 10:35AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
 
DISCHARGE LABS
============================
___ 05:46AM BLOOD WBC-6.4 RBC-4.09* Hgb-12.2* Hct-37.2* 
MCV-91 MCH-29.8 MCHC-32.8 RDW-12.8 RDWSD-42.1 Plt ___
___ 05:39AM BLOOD Glucose-104* UreaN-14 Creat-0.7 Na-142 
K-4.1 Cl-103 HCO3-27 AnGap-12
___ 05:39AM BLOOD Calcium-8.5 Phos-5.1* Mg-2.0
 
PERTINENT STUDIES
============================
X-RAY KNEE (___)
No acute fracture or dislocation.
 
CT RIGHT LOWER EXTREMITY (___)
Skin thickening and superficial soft tissue swelling throughout 
the right lower extremity extending from the level of the knee 
through the foot, suggestive of cellulitis.  No discrete fluid 
collection or bony abnormality.
 
Brief Hospital Course:
___ w/ history of asthma admitted for right lower extremity 
cellulitis with purulent abscess in setting of recent MVC, now 
s/p drainage and subsequent improvement on vancomycin. Details 
as follows:
 
# COMPLICATED SKIN/SOFT TISSUE INFECTION OF RIGHT LOWER 
EXTREMITY
Initially presented for worsening erythema, swelling, and severe 
pain of the right lower leg after recent motor vehicle collision 
with abrasion to the area. He was initially treated with 
outpatient Keflex however symptoms continued to progress despite 
PO antibiotics. CT of the limb and clinical exam was reassuring 
against fasciitis or other surgical emergency. He underwent 
bedside drainage of the abscess and started on IV vancomycin 
with steady improvement in symptoms over subsequent days. 
Abscess was cultured however with no growth, therefore continued 
on empiric coverage for MRSA. At time of discharge he was 
planned to complete 7-day course of antibiotics from when 
therapeutic on vancomycin (Bactrim + Keflex for possible though 
lower suspicion of Strep infection). He will have ___ services 
to assist with abscess wick changes on a daily basis until wound 
resolved. 
 
TRANSITIONAL ISSUES
=============================
[ ] Plan to complete 7-day course Bactrim + Keflex from when 
vancomycin was therapeutic (last day ___.
[ ] Noted to have A1c 5.7 c/w pre-diabetes. Recommend ongoing 
discussion and counseling.
[ ] Noted to have mildly elevated ALT 54 without other LFT 
abnormalities. Given history of obesity is most likely due to 
fatty liver disease - recommend further discussion as 
outpatient.
[ ] Noted to be hepatitis B non-immune. Recommend outpatient 
vaccination series. 
 
# CONTACT: ___ (girlfriend: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth every 6 hours Disp 
#*24 Capsule Refills:*0 
3.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tablet(s) by 
mouth twice daily Disp #*11 Tablet Refills:*0 
4.  ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
# COMPLICATED SKIN/SOFT TISSUE INFECTION OF RIGHT LOWER 
EXTREMITY
 
SECONDARY DIAGNOSES:
# ASTHMA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
 
It was a pleasure taking care of you at ___.
 
Why you were in the hospital:
- You had an infection in and underneath the skin of your right 
lower leg 
 
What was done for you in the hospital:
- You received IV antibiotics (called vancomycin) for your 
infection 
- You got a CT scan of your right leg 
- You had a small abscess on your leg that was drained by a 
surgeon
- You got blood tests that showed your infection was responding 
appropriately to the antibiotics 
- By the day of discharge you were able to walk with minimal 
discomfort and your infection showed significant improvement in 
response to the antibiotics 
- You were sent home with oral antibiotic pills to continue 
taking at home (instructions below) 
 
What you should do after you leave the hospital:
- Please take your medications as detailed in the discharge 
papers. If you have questions about which medications to take, 
please contact your regular doctor to discuss.
- Please go to your follow up appointments as scheduled in the 
discharge papers. Most of them already have a specific date & 
time set. If there is no specific time specified, and you do not 
hear from their office in ___ business days, please contact the 
office to schedule an appointment.
- Please monitor for worsening symptoms. If you do not feel like 
you are getting better or have any other concerns, please call 
your doctor to discuss or return to the emergency room.
 
We wish you the ___!
 
Sincerely,
Your ___ Care Team

 
Followup Instructions:
___